US04792550
Synthesis of (1R,5R)-10-hydroxymethyl-2-pinene
A mixture of β-pinene (32 ml) and paraformaldehyde (4 g) in sealed tube was reacted for 18 hrs at 180° C. The reaction solution was distilled to give the title compound (15.5 g) having the following physical data:

reactant | β-pinene | 32 ml | CC1(C2CCC(=C)C1C2)C | C10H16
reactant | paraformaldehyde | 4 g | C=O | CH2O
product | (1R,5R)-10-hydroxymethyl-2-pinene | 15.5 g | OCCC=1[C@H]2C([C@H](CC1)C2)(C)C | C11H18O
